US07329683B2
Concentrated sulfuric acid (50 mL) and carbon tetrachloride (100 mL) were combined, cooled to 0° C. and vigorously stirred. Adamantan-2-ol (451 mg) was dissolved in 96% formic acid (6 mL) and the solution was added to the sulfuric acid over 1 hour. The reaction continued to stir at 0° C. for 90 min after which it was added to 300 mL of ice. The layers were separated and the aqueous layer was extracted with 50 mL carbon tetrachloride (2×). The organic layers were combined and extracted with 1N NaOH. The aqueous portion was extracted with methylene chloride (4×) then acidified with 5N HCl. The solution turned white and was cooled on ice. Filtration provided the desired adamantane-2-carboxylic acid (contaminated with about 5% adamantane-1-carboxylic acid) as a white powder.

reactant | sulfuric acid | 50 mL | S(O)(O)(=O)=O | H2O4S
reactant | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | Adamantan-2-ol | 451 mg | C12C(C3CC(CC(C1)C3)C2)O | C10H16O
reactant | formic acid | 6 mL | C(=O)O | CH2O2
product | adamantane-2-carboxylic acid | about 5% | C12C(C3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
